### PR TITLE
Some rules for CLib

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This updates `ccorres_While` and `ccorres_call_getter_setter` to be more useful, adding and moving a few other things along the way

### CODE REVIEW

**Comment by michaelmcinerney** [comment]
Force pushed to clean up the commits a bit. Should hopefully be good to go now

File: lib/clib/CCorresLemmas.thy [hunk 1]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
-  apply (clarsimp simp: cvalid_def HoarePartialDef.valid_def)
-  by (rule exec_While_final_inv''
-            [where I="\<lambda>s s'. s \<in> G \<and> (s \<in> C \<longrightarrow> s \<in> Cnd) \<longrightarrow> s' \<in> Normal ` G", THEN impE],
-      (fastforce dest!: intermediate_Normal_state[where c\<^sub>1=B and P="G \<inter> Cnd" and Q=G]
-                 intro: hoare_complete
-                  simp: cvalid_def HoarePartialDef.valid_def)+)
-
-lemmas hoarep_Int_pre_fix = hoarep_Int[where P=P and P'=P for P, simplified]
+  apply (simp add: cvalid_def HoarePartialDef.valid_def)
+  apply (intro allI)
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1053]: Would it mess up the state too much if that was compressed into a `clarsimp` instead (includes the `allI` and `impI`).

File: lib/clib/CCorresLemmas.thy [hunk 2]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+  apply (rename_tac xstate xstate')
+  apply (rule impI)
+  apply (case_tac "\<not> isNormal xstate")
+   apply fastforce
+  apply (simp add: isNormal_def)
+  apply (elim exE)
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1059]: Also smells like it could be a `clarsimp` (or would have been resolved by an earlier clarsimp). I can't see the proof state, though, `clarsimp` might be doing a bit too much.

File: lib/clib/CCorresLemmas.thy [hunk 3]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+     apply (frule intermediate_Normal_state[OF _ _ body_inv])
+      apply fastforce
+     apply clarsimp
+     apply (rename_tac inter_t)
+     apply (frule hoarep_exec[OF _ _ body_inv, rotated])
+      apply fastforce
+     apply (frule_tac s=inter_t in hoarep_exec[rotated 2])
+       apply fastforce
+      apply fastforce
+     apply fastforce
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1075]:
```suggestion
     apply (frule_tac s=inter_t in hoarep_exec[rotated 2]; fastforce)
```

File: lib/clib/CCorresLemmas.thy [hunk 4]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+  apply (simp add: cvalid_def HoarePartialDef.valid_def)
+  apply (intro allI)
+  apply (rename_tac xstate xstate')
+  apply (rule impI)
+  apply (case_tac "\<not> isNormal xstate")
+   apply fastforce
+  apply (simp add: isNormal_def)
+  apply (elim exE)
+  apply (simp add: image_def)
+  apply (erule exec_While_final_inv''[where C="{s'. cond_xf s' \<noteq> 0}" and B="B;; setter"])
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1061]: Would a `; clarsimp` do anything useful here or just add noise?

File: lib/clib/CCorresLemmas.thy [hunk 5]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+    apply (prop_tac "\<exists>rv' s'. rrel rv' (xf inter_t) \<and> (rv', s') \<in> fst (B r s)
+                              \<and> (s', inter_t) \<in> srel")
+     apply (insert body_ccorres)[1]
+     apply (drule_tac x=r in meta_spec)
+     apply (erule (1) ccorresE)
+         apply fastforce
+        apply fastforce
+       using nf apply (fastforce simp: no_fail_def)
+      apply (fastforce dest!: EHOther)
+     apply fastforce
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1135]: this bit looks like it could potentially compressed a bit without losing readability

File: lib/clib/CCorresLemmas.thy [hunk 6]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
-    apply (prop_tac "xf inter_t = xf t'")
-     apply (fastforce dest: hoarep_exec[rotated] intro: setter_xf_inv)
+     apply (intro conjI)
+           apply fastforce
+          using no_ofail apply (fastforce elim!: no_ofailD)
+         apply fastforce
+        apply (fastforce dest: hoarep_exec[OF _ _ setter_rrel, rotated])
+       apply (fastforce dest: hoarep_exec[OF _ _ setter_inv_cond, rotated])
+      apply (fastforce dest: hoarep_exec[OF _ _ setter_inv_cond, rotated])
+     apply (fastforce dest: hoarep_exec[OF _ _ setter_inv_cond, rotated])
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1156]: I could well be wrong, but this also looks like this might be possible to compress into a single fastforce. E.g. something like 
```suggestion
     using no_ofail
     apply (fastforce elim!: no_ofailD dest: hoarep_exec[OF _ _ setter_rrel, rotated hoarep_exec[OF _ _ setter_inv_cond, rotated])
```

The advantage would be that the single fastforce is not sensitive to the order of the conjuncts should those ever change.

File: lib/clib/CCorresLemmas.thy [hunk 7]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+    apply (drule_tac x=r in meta_spec)
+    apply (rule hoarep_conj_lift_pre_fix)
+     apply (rule hoarep_conj_lift_pre_fix)
+      apply (insert setter_inv_cond)[1]
+      apply (drule_tac x=s in meta_spec)
+      apply (drule_tac x=r in meta_spec)
+      apply (rule_tac Q'="{s' \<in> G'. cond_xf s' \<noteq> 0 \<longrightarrow> s' \<in> C'}" in conseqPost)
+        apply fastforce
+       apply fastforce
+      apply fastforce
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1182]: I'd usually prefer `; fastforce` instead for situations like that.

File: lib/clib/CCorresLemmas.thy [hunk 8]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+     apply (rule hoarep_conj_lift_pre_fix)
+      apply (simp add: Collect_mono conseq_under_new_pre)
+     apply (simp add: Collect_mono conseq_under_new_pre)
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1185]: Does this one work?
```suggestion
     apply (simp add: hoarep_conj_lift_pre_fix Collect_mono conseq_under_new_pre)
```

File: lib/clib/CCorresLemmas.thy [hunk 9]
```diff
@@ -1040,119 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+        apply (rule hoarep_conj_lift_pre_fix)
+         apply fastforce
+        apply (simp add: conseq_under_new_pre)
+       apply fastforce
+      apply fastforce
+     apply fastforce
+    apply (case_tac xstate; clarsimp)
+    apply (frule intermediate_Normal_state[OF _ _ setter_hoarep])
+      apply fastforce
+     apply fastforce
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1234]: `; fastforce`

File: lib/clib/CCorresLemmas.thy [hunk 10]
```diff
@@ -1177,4 +1269,38 @@ lemma ccorres_inr_rrel_Inr[simp]:
...
+     apply (rule monadic_rewrite_is_refl)
+     apply (rule add_remove_return)
+    apply (rule ccorres_seq_skip'[THEN iffD1])
+    apply (rule ccorres_split_nothrow_novcg)
+        apply (rule ccorres_call_getter_setter)
+            apply (fastforce intro: cul)
+           apply (fastforce intro: gsr)
+          apply (simp add: gsr)
+         apply (fastforce intro: ist)
+        apply (fastforce intro: ef)
```
Comment (lsf37) [inline lib/clib/CCorresLemmas.thy:1297]: Would feel tempted to try this one in a single `fastforce`. May well fail, but would be nicer.

**Review by lsf37 — APPROVED** [review]
Cool. The content looks good, I just have a bunch of potential small proof compression queries. The idea would be not just to make it a bit shorter, but also slightly less sensitive to the precise order of assumptions etc in rules.

File: lib/clib/Corres_UL_C.thy [hunk 11]
```diff
@@ -288,6 +288,43 @@ lemma ccorres_from_vcg_nofail:
...
+  apply (simp add: HoarePartialDef.valid_def cvalid_def)
+  apply (intro impI allI)
+  apply clarsimp
+  apply (frule (5) ccorres_empty_handler_abrupt)
+  apply (erule (4) ccorresE)
+   apply (erule (1) EHOther)
+  apply (rule image_eqI)
+   apply simp
+  apply (fastforce simp: unif_rrel_simps valid_def)
+  done
```
Comment (Xaphiosis) [inline lib/clib/Corres_UL_C.thy:307]: This proof appears nearly identical to `ccorres_to_vcg`. Does it mean that it becomes an instance of this rule? No sense repeating the proof in that case, suggest changing proof of `ccorres_to_vcg` to be an instantiation.
Also, this proof looks a bit ancient (have a feeling that fastforce/force/auto can take it from the `image_eqI` line for example), if you have time maybe try shorten it a bit?

File: lib/clib/Corres_UL_C.thy [hunk 12]
```diff
@@ -288,6 +288,43 @@ lemma ccorres_from_vcg_nofail:
...
+
+lemma ccorres_to_vcg_with_prop':
+  "\<lbrakk>ccorres_underlying srel \<Gamma> rrel xf arrel axf P P' [] a c; no_fail Q a; \<lbrace>P\<rbrace> a \<lbrace>R\<rbrace>\<rbrakk>
+   \<Longrightarrow> \<Gamma> \<turnstile> {s'. P s \<and> Q s \<and> s' \<in> P' \<and> (s, s') \<in> srel}
+           c {t'. \<exists>rv t. (t, t') \<in> srel \<and> rrel rv (xf t') \<and> R rv t}"
+  apply (frule (2) ccorres_to_vcg_with_prop[where s=s])
+  apply (fastforce elim: conseq_under_new_pre)
+  done
```
Comment (Xaphiosis) [inline lib/clib/Corres_UL_C.thy:315]: I'd be left scratching my head as to when to use this rule vs any of the other ones.
Suggestion: since it's a two-line proof without interesting bits, use a `by`

File: lib/clib/Corres_UL_C.thy [hunk 13]
```diff
@@ -288,6 +288,43 @@ lemma ccorres_from_vcg_nofail:
...
+
+lemma ccorres_to_vcg_gets_the:
+  "\<lbrakk>ccorres_underlying srel \<Gamma> rrel xf arrel axf P P' [] (gets_the r) c; no_ofail P r\<rbrakk>
+   \<Longrightarrow> \<Gamma> \<turnstile> (P' \<inter> {s'. (s, s') \<in> srel \<and> P s})
+           c {t'. (s, t') \<in> srel \<and> P s \<and> (r s \<noteq> None) \<and> rrel (the (r s)) (xf t')}"
+  apply (frule ccorres_to_vcg_with_prop[where R="\<lambda>_. P" and s=s])
+    apply (erule no_ofail_gets_the)
+   apply wpsimp
+  apply (clarsimp simp: gets_the_def gets_def bind_def return_def get_def assert_opt_def
+                        fail_def conseq_under_new_pre
```
Comment (Xaphiosis) [inline lib/clib/Corres_UL_C.thy:325]: Don't know if it helps here, but reminder that `simpler_gets_def` exists and I've yet to see when we want gets_def

File: lib/clib/Corres_UL_C.thy (hunk 11 above)
Comment (Xaphiosis) [reply lib/clib/Corres_UL_C.thy:307]: Also same comment as Gerwin on the while rule, `clarsimp` includes doing `allI` and `impI` already, so that `simp, intro, clarsimp` might be compressible.

File: lib/clib/CCorresLemmas.thy [hunk 14]
```diff
@@ -1177,4 +1177,38 @@ lemma ccorres_inr_rrel_Inr[simp]:
...
+       apply (rule ceqv_refl)
```
Comment (Xaphiosis) [inline lib/clib/CCorresLemmas.thy:1298]: out of curiosity (not suggesting you change it), but why not `apply ceqv`?

File: lib/clib/CCorresLemmas.thy [hunk 15]
```diff
@@ -1040,76 +1040,211 @@ lemma ccorres_Guard_True_Seq:
...
+                setter
+                {s'. s' \<in> G' \<and> (cond_xf s' \<noteq> 0 \<longrightarrow> s' \<in> C')}"
+  assumes setter_rrel:
+    "\<And>r s. \<Gamma> \<turnstile> {s'. s' \<in> G' \<and> (s, s') \<in> srel \<and> G r s \<and> rrel r (xf s')}
+                setter
+                {s'. rrel r (xf s')}"
+  shows
+    "ccorresG srel \<Gamma> rrel xf (G r) (G' \<inter> {s'. rrel r (xf s')}) hs
+       (whileLoop (\<lambda>r s. the (C r s)) B r)
+       (setter;; (While {s'. cond_xf s' \<noteq> 0} (B';; setter)))"
```
Comment (Xaphiosis) [inline lib/clib/CCorresLemmas.thy:1104]: I'm a bit puzzled by this rule (ok, besides getting dizzy trying to follow all the `*rel`s). In a "typical" C loop, you have an initialiser, a loop body with a test at the front, and then an increment/advance at the end. This pattern is so common it got enshrined as the `for` loop. In this rule, however, you have `setter; while (cond) {B; setter;}` which would indicate a much more specific type of while loop, what we'd see with a do-while loop: `do {B; setter} while (cond)`.

Is this what's happening on the C side here where you're trying to apply this rule? Did they use a do-while there? I'm not sure what the C parser does with a do-while honestly.

If that's what we're looking at, then the name `ccorres_While` might be a slightly misleading name, and possibly the C code while loop might be a bit strange.

Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1104]: The `do .. while` loop potentially does one more `B` than the `while` loop, so it's not quite the same.

If I understood correctly, the `setter` part is state change that is related to the condition, but not the body, and is usually not state change that affects the state relation. A better name would be welcome, but we haven't found one yet. Come to think of it, we did talk about needing a comment for this rule, specifically describing the role of the `setter` bit. We should really add that.

You have a point that the name `ccorres_While` is a bit too general, because it does expect a specific form of while loop on the C side.

Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1104]: I haven't tried looked into exactly what the C parser is doing (I doubt I would understand it anyway) but this format seems to be produced whenever there is a separate function which is used as the loop condition in a plain `while` statement. I could check, but I think when there isn't a separate function for the loop condition, then there would be no `setter` as I have in this rule.

The reason I do want to have a separate name (possibly inlined function in the C) for the loop condition is that it makes writing a `ccorres` lemma much easier than if I were to try to paste a big blob of Simpl into a `ccorres` statement. One of the `while` loops in `refill_budget_check` does not use a separate function, and the Simpl version of the loop condition there is very involved and ugly.

Would it be reasonable to always use a C function for the loop condition?

Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1104]: Actually, you're right, I suspect the C parser is always going to produce this pattern if the loop condition has a potential side effect. (But will not if it doesn't). The pattern might be harder to extract if the body is not just a function call, because it'll probably just put a semicolon at the end, which is hard to match against if there are other semicolons in the body, but it should still be there in principle.

So what `setter` really is is the potentially side-effectful expression in the loop condition position in C. So a better name would actually be `condition` after all. We could look into the C parser to change associativity of that final semicolon so that the pattern here always fits for those kinds of loops, which would make the rule applicable to all while loops that have a condition with side effect.

Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1104]: I would be quite happy if we always had the loop body in the C as its own function call, but I wouldn't be surprised if it's not in keeping with the style the C has. If it weren't its own function call, then could always just use one of the rules about associativity of the Simpl in a `ccorres` rule to change things around, right? I wouldn't be averse to changing what the C parser does here, though.

But thinking more generally, are we happy to always require our C `while` loops to use a standalone function as the loop condition?

File: lib/clib/CCorresLemmas.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1053]: I use `erule exec_While_final_inv''` a few lines later, and I'm wanting to get the conclusion in a particular form at this point, so that I can match perfectly. The predicate I'm wanting to match is a bit clunky. Would it be better to instantiate the predicate manually, or to use this sequence of finicky proof steps and than just match?

File: lib/clib/CCorresLemmas.thy (hunk 4 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1061]: Sure, that gets rid of a few of the `fastforce`s

File: lib/clib/CCorresLemmas.thy (hunk 3 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1075]: This spins. It even spins with `blah; fastforce?`. It seems like the best I can do is `blah; clarsimp` followed by two `fastforce`s, which only gets rid of one line.

File: lib/clib/CCorresLemmas.thy (hunk 5 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1135]: I can do ` using nf subgoal by (fastforce elim: ccorresE simp: no_fail_def dest!: EHOther)` but it takes about 5 seconds, compared with the 1 to 2 seconds that this chunk currently takes. Is that preferable?

File: lib/clib/CCorresLemmas.thy (hunk 6 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1156]: I couldn't get this or something like it to work. The conjuncts are from the statement `helper` itself, so if they did change, it would be from some fairly major surgery on this rule itself. Is it worth looking into some other approach to this?

I did try getting rid of this `helper` bit, but it's useful, again because of the rather specific predicate that `exec_While_final_inv''` uses.

File: lib/clib/CCorresLemmas.thy (hunk 8 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1185]: Sadly not. I can get `apply (fastforce intro: hoarep_conj_lift_pre_fix simp add: Collect_mono conseq_under_new_pre)` to work, but it takes a good few seconds.

File: lib/clib/CCorresLemmas.thy (hunk 9 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1234]: That spins too. Here I can do `blah; assumption?` and then just one `fastforce`, which is again just one line better.

File: lib/clib/CCorresLemmas.thy (hunk 10 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1297]: Can't get that to work, either.

File: lib/clib/CCorresLemmas.thy (hunk 14 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1298]: `ceqv` isn't available in this theory file. Should we investigate making it available?

Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1298]: I suspect that would be too much reshuffling. Given that the use is trivial here, I think leaving it is Ok.

File: lib/clib/CCorresLemmas.thy (hunk 15 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1104]: > I would be quite happy if we always had the loop body in the C as its own function call, but I wouldn't be surprised if it's not in keeping with the style the C has. 

Yes, that would definitely not be normal, having the loop body as a single function call is definitely an exception.


> If it weren't its own function call, then could always just use one of the rules about associativity of the Simpl in a `ccorres` rule to change things around, right? 

Yes, that would be possible, but somewhat annoying to use.


> I wouldn't be averse to changing what the C parser does here, though.
 
Happy to look into that (in a separately from this PR).

> But thinking more generally, are we happy to always require our C `while` loops to use a standalone function as the loop condition?

No, definitely not. The default situation is that the loop condition does not affect the state and is an otherwise arbitrary expression. Most loops are of that form. Loop conditions that do change the state (as we have here) should be the exception. Even there I don't think we can demand that the condition should always be just one function call. For the cases we are seeing in MCS, it makes sense to have them as a single function call, but I wouldn't say that in general.

File: lib/clib/CCorresLemmas.thy (hunk 1 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1053]: Hm, depends on how big the instantiation is. If it's reasonably small, that would probably be preferable, because it would rely less on the exact term structure of the goal. If it's as big as stating another lemma it's not really worth it, though.

File: lib/clib/CCorresLemmas.thy (hunk 3 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1075]: That is interesting, that means it depends on the order the goals are solved in. How about `(blah, fastforce+)[1]` or Raf's `fwd_all_new` (i.e. fwd_all_new <blah> fastforce`).

File: lib/clib/CCorresLemmas.thy (hunk 5 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1135]: If it's that much slower then the expanded form is better. Could try a `; fastforce?` but that is probably reaching for straws.

File: lib/clib/CCorresLemmas.thy (hunk 6 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1156]: It's Ok, if it doesn't work then let's leave it as is. Sometimes it's not really worth the time.

File: lib/clib/CCorresLemmas.thy (hunk 8 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1185]: Hm. Even with `intro!: ..`? If not, we could fall back to `rule ..; simp add: ...`

File: lib/clib/CCorresLemmas.thy (hunk 9 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1234]: Might also be the order again, so `(.., fastforce+)[1]` might have a chance.

File: lib/clib/CCorresLemmas.thy (hunk 10 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1297]: Alright, was worth a shot :-)

File: lib/clib/Corres_UL_C.thy (hunk 11 above)
Comment (michaelmcinerney) [reply lib/clib/Corres_UL_C.thy:307]: Sorry, I meant to make a comment about these rules. There are some variations on this rule: `ccorres_to_vcg'`, which appears in CLib and is pretty much `ccorres_to_vcg` in clarsimp normal form, and then there's also `ccorres_to_vcg_nf` in CRefine, which uses `no_fail` rather than `snd _`. Should I consolidate these? I could prove the `with_prop` version, and get any other variant that's required from it

File: lib/clib/CCorresLemmas.thy (hunk 3 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1075]: Both of those work here. Is one preferable?

File: lib/clib/CCorresLemmas.thy (hunk 5 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1135]: `; fastforce?` spins. I suppose I'll leave it as it was for now, unless we come up with some other ideas

File: lib/clib/CCorresLemmas.thy (hunk 8 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1185]: `intro!` does help, actually, and the original `simp`s weren't so fast, so this is probably no slower. I'll go with that. Thanks

File: lib/clib/Corres_UL_C.thy (hunk 12 above)
Comment (michaelmcinerney) [reply lib/clib/Corres_UL_C.thy:315]: I might be able to get rid of this one, actually. I can use the stronger form just above, I'm pretty sure.

The `with_prop` versions are probably useful only in some sort of a `ccorres` rule for some sort of loop, where we'd like the `\exists rv t` bit and then want to carry a loop invariant through, too. But you get the property almost for free, so I thought I could prove this and then get `ccorres_to_vcg` from having the trivial postcondition

File: lib/clib/CCorresLemmas.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/clib/CCorresLemmas.thy:1053]: I tried getting a manual instantiation working, but it got very annoying and I think I might give up on that.

Comment (lsf37) [reply lib/clib/CCorresLemmas.thy:1053]: No worries, it was worth a try.

File: lib/clib/CCorresLemmas.thy (hunk 3 above)
Comment (lsf37) [reply lib/clib/CCorresLemmas.thy]: Inside a proof method, I'd prefer `fwd_all_new`, because it's more precise, but in normal proof scripts the `(_, _+)[1]` is probably more familiar to people.

File: lib/clib/Corres_UL_C.thy (hunk 12 above)
Comment (michaelmcinerney) [reply lib/clib/Corres_UL_C.thy]: I was able to get rid of this rule. So now there's just a question of whether to clean up the other variants of this rule, `ccorres_to_vcg'` and `ccorres_to_vcg_nf`

Comment (Xaphiosis) [reply lib/clib/Corres_UL_C.thy]: Cool. I'd say yes, if any rules become easily provable due to the new one you've added, then cleaning up their proofs is preferable.

File: lib/clib/Corres_UL_C.thy (hunk 11 above)
Comment (Xaphiosis) [reply lib/clib/Corres_UL_C.thy:307]: I honestly don't know which of these is the better form. Maybe @lsf37 does. Thumbs up for consolidation if you have time for it.

Comment (michaelmcinerney) [reply lib/clib/Corres_UL_C.thy:307]: I'd like to hear Gerwin's opinion, but I'm pretty sure that having `ccorres_to_vcg_with_prop` as in this PR, and then replacing the current `ccorres_to_vcg` with

```
lemma ccorres_to_vcg:
  "⟦ccorres_underlying srel Γ rrel xf arrel axf P P' [] a c; no_fail Q a⟧
   ⟹ Γ ⊢ {s'. P s ∧ Q s ∧ s' ∈ P' ∧ (s, s') ∈ srel}
           c {t'. ∃(rv, t) ∈ fst (a s). (t, t') ∈ srel ∧ rrel rv (xf t')}"
  apply (frule (1) ccorres_to_vcg_with_prop[where R="⊤⊤"])
   apply wpsimp
  apply fastforce
  done
```

would be the best way to go.

The original `ccorres_to_vcg` isn't in clarsimp normal form. Then `ccorres_to_vcg'` requires `no_fail` for the abstract function with the precondition `\top`, which is stronger than what I require with this new formulation. And then `ccorres_to_vcg_nf` requires the precondition for `no_fail` to be no stronger than the abstract guard of the `ccorres` rule, which is not necessary.

Comment (michaelmcinerney) [reply lib/clib/Corres_UL_C.thy:307]: That's not quite right. I suppose it's that `ccorres_to_vcg'` requires the abstract function to not fail on the given abstract state. But non-failure is probably best dealt with via an actual `no_fail` assumption, which this rule doesn't do.

Comment (michaelmcinerney) [reply lib/clib/Corres_UL_C.thy:301]: It seems like the variants of `ccorres_to_vcg` were actually unused in CRefine. Updates in the last commit

Comment (lsf37) [reply lib/clib/Corres_UL_C.thy:301]: Cool. I'm happy with the version in the last commit.

**Review by Xaphiosis — APPROVED** [review]
I think this is good now, don't forget to squash. I'd also prefer it if you squashed the "clib: some proof compression" commit into prior commits, not really something we need in the history.
